US07550478B2
Step 1: 3-chloro-7-iodo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
A sealed tube was charged with 3-chloro-7-bromo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (1.0 g, 3.1 mmol), CuI (59 mg, 0.31 mmol), and sodium iodide (0.94 g, 6.2 mmol). The tube was evacuated and backfilled with argon three times. Fully degassed dioxane (8 mL) was added. The tube was sealed, placed in an oil bath at 110° C., and stirred rapidly for 24 hours. Upon completion, the reaction mixture was cooled and quenched via the addition of 20 mL of a 30% aqueous ammonia solution, poured into 80 mL of water, and extracted three times with 150mL dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via flash chromatography (silica, 0-100% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, d6-DMSO) δ 8.99 (d, 1H), 8.43 (d, 1H), 8.39 (d, 1H), 8.16 (dd, 1H), 7.60 (d, 1H), 7.42 (d, 1H), 7.32 (d, 1H). LRMS (APCI) calc'd for (C14H8ClINO) [M+H]+, 367.9; found 367.9.

reactant | 3-chloro-7-bromo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 3.1 mmol, 1.0 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)Br | C14H7BrClNO
reactant | sodium iodide | 6.2 mmol, 0.94 g | [I-].[Na+]
catalyst | CuI | 0.31 mmol, 59 mg | [Cu]I
product | 3-chloro-7-iodo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)I | C14H7ClINO
